US05196434
3-METHYL-6-[2-(N-METHYL-N -CYANOMETHYLAMINO )ETHYL] BENZOTHIAZOLINONE
In a round-bottomed flask, 6.8 mmol of 3-methyl-6-[2-(N-methylamino)ethyl]benzothiazolinone are dissolved in 50 mol of dioxane in the presence of 20 mmol of chloro-acetonitrile, 20 mmol of potassium carbonate and a catalytic amount of potassium iodide. The mixture is stirred at 60° C. for 48 hours. After cooling, the solvent is evaporated off and the reaction mixture is extracted with chloroform after adding water. After washing, drying and evaporation of the organic phase, the expected product is obtained after purification by chromatography on a silica column, followed by crystallization.

reactant | 3-methyl-6-[2-(N-methylamino)ethyl]benzothiazolinone | 6.8 mmol | CN1CS(C2=C1C=CC(=C2)CCNC)=O | C11H16N2OS
reactant | dioxane | 50 mol | O1CCOCC1 | C4H8O2
reactant | chloro-acetonitrile | 20 mmol | ClCC#N | C2H2ClN
reactant | potassium carbonate | 20 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
product | 3-METHYL-6-[2-(N-METHYL-N -CYANOMETHYLAMINO )ETHYL] BENZOTHIAZOLINONE | CN1CS(C2=C1C=CC(=C2)CCN(CC#N)C)=O | C13H17N3OS
